US03978135
A process according to claim 1 which comprises the following steps (a) reacting citronellal with about 1-3 mols of dimethylamine, butylamine or ammonia per mol of citronellal at -5°C. to -25°C. (b) contacting the product of step (a) with methanol at -10°C. to +20°C. in the presence of 3.5-5 mols sulphuric acid per mol of citronellal used in step (a) and (c) neutralising the reaction mixture of step (b) with an aqueous solution of sodium hydroxide to produce methoxydihydrocitronellal.

reactant | citronellal | CC(C)=CCCC(C)CC=O | C10H18O
reactant | dimethylamine | about 1-3 mols | CNC | C2H7N
reactant | butylamine | C(CCC)N | C4H11N
reactant | ammonia | N | H3N
reactant | sulphuric acid | 3.5-5 mols | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | methoxydihydrocitronellal | CC(CCCC(C)(C)OC)CC=O | C11H22O2
